US08604055B2
Synthesis of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-bis-cyclopropylmethyl-amine
A mixture of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-bis-cyclopropylmethyl-amine (0.32 g,0.47 mmol), tris(dibenzylideneacetone)dipalladium (0.07 g, 0.08 mmol), (2-biphenyl)-di-tert-butylphosphine (0.02 g, 0.06 mmol), sodium tert-butoxide (0.09 g, 1 mmol), morpholine (0.08 ml, 0.9 mmol) in toluene was stirred at ambient temperature for 24 h. Thereafter, the reaction mixture is quenched with water and extracted with ethyl acetate (2×30 mL). The combined organic extracts was washed with brine, dried over sodium sulfate and concentrated in vacuo. The crude mixture was purified by chromatography using silica gel to afford the title compound as a colorless solid (0.11 g, 35%).

reactant | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-bis-cyclopropylmethyl-amine | 0.47 mmol, 0.32 g | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC=2C(=NC3=C(C=CC=C3C2)C)N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C32H30BrF6N5
reactant | sodium tert-butoxide | 1 mmol, 0.09 g | CC(C)([O-])C.[Na+]
reactant | morpholine | 0.9 mmol, 0.08 ml | N1CCOCC1 | C4H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.08 mmol, 0.07 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-bis-cyclopropylmethyl-amine | 0.11 g, 35% | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC=2C(=NC3=C(C=CC=C3C2)C)N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C36H38F6N6O
